*$
* PART NUMBER:NJM2123
* MANUFACTURER: NEW JAPAN RADIO
* All Rights Reserved Copyright (c) Bee Technologies Inc. 2007
.Subckt NJM2123 V+ SW1 IN1A+ IN1A- out1 IN1B- IN1B+ SWC
+ GND SWR IN2B+ IN2B- out2 IN2A- IN2A+ SW2 
X_U1         IN1A+ IN1A- V+ GND OUTL1 NJM2123_ME
X_U2         IN1B+ IN1B- V+ GND OUTL2 NJM2123_MER
X_U3         SW1 VTH COMPL COMP
X_U4         IN2A+ IN2A- V+ GND OUTR1 NJM2123_ME
X_U5         IN2B+ IN2B- V+ GND OUTR2 NJM2123_ME
X_U6         SW2 VTH COMPR COMPR
.MODEL        _Sl1 VSWITCH Roff=1e6 Ron=1.0 Voff=1.0V Von=0.0V
.MODEL        _Sl2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
.MODEL        _Sr1 VSWITCH Roff=1e6 Ron=1.0 Voff=1.0V Von=0.0V
.MODEL        _SR2 VSWITCH Roff=1e6 Ron=1.0 Voff=0.0V Von=1.0V
S_Sl1         OUTL1 VCHL1 N11861 0 _Sl1
S_Sl2         OUTL2 VCHL2 N11861 0 _Sl2
S_Sr1         OUTR1 VCHR1 N47738 0 _Sr1
S_SR2         OUTR2 VCHR2 N47738 0 _SR2
E_EL         N11861 0 VALUE { If(v(compl)>0,0,1) }
E_ER         N47738 0 VALUE { If(v(compr)>0,0,1) }
V_V1         SWC VTH 0Vdc
I_Ii         V+ VTH DC 100uA
R_Ri         SWR VTH  25k
RS_Sl1        N11861 0 1G
RS_Sl2        N11861 0 1G
RS_Sr1        N47738 0 1G
RS_Sr2        N47738 0 1G
R_R1         VCHL1 0  1.4k  
R_R2         VCHL2 0  1.4k  
R_R3         VCHR1 0  1.4k
R_R4         VCHR2 0  1.4k  
R_Ro1         OUT1 VCHL1  1u  
R_Ro2         OUT1 VCHL2  1u  
R_Ro3         OUT2 VCHR1  1u  
R_Ro4         OUT2 VCHR2  1u
.ENDS NJM2123
.subckt NJM2123_ME 1 2 3 4 5
  c1   11 12 1.6603E-12
  c2    6  7 28.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 285.79E3 -1E3 1E3 290E3 -290E3
  ga    6  0 11 12 1.7965E-3
  gcm   0  6 10 99 338.49E-9
  iee   3 10 dc 93.200E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 589.46
  rc2   4 12 589.46
  re1  13 10 33.173
  re2  14 10 33.173
  ree  10 99 2.1459E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 35.738
  vb    9  0 dc 0
  vc    3 53 dc 1.0979
  ve   54  4 dc 1.0979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=442.86)
.model qx2 PNP(Is=827.3675E-18 Bf=505.47)
.ends NJM2123_ME
*********************************************************

.SUBCKT COMP 1 2 3
*	      + - S
EB1 4 0 VALUE = {limit(V(1,2)*1E5, 2.5,0)}
RD 4 3 1k
CD 3 0 100p
.ENDS COMP
*********************************************************
.subckt NJM2123_MER 1 2 3 4 5
  c1   11 12 1.6603E-12
  c2    6  7 28.000E-12
  dc    5 53 dy
  de   54  5 dy
  dlp  90 91 dx
  dln  92 90 dx
  dp    4  3 dx
  egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
  fb    7 99 poly(5) vb vc ve vlp vln 0 285.79E3 -1E3 1E3 290E3 -290E3
  ga    6  0 11 12 1.7965E-3
  gcm   0  6 10 99 338.49E-9
  iee   3 10 dc 93.200E-6
  hlim 90  0 vlim 1K
  q1   11  2 13 qx1
  q2   12  1 14 qx2
  r2    6  9 100.00E3
  rc1   4 11 589.46
  rc2   4 12 589.46
  re1  13 10 33.173
  re2  14 10 33.173
  ree  10 99 2.1459E6
  ro1   8  5 50
  ro2   7 99 25
  rp    3  4 35.738
  vb    9  0 dc 0
  vc    3 53 dc 1.0979
  ve   54  4 dc 1.0979
  vlim  7  8 dc 0
  vlp  91  0 dc 20
  vln   0 92 dc 20
.model dx D(Is=800.00E-18)
.model dy D(Is=800.00E-18 Rs=1m Cjo=10p)
.model qx1 PNP(Is=800.00E-18 Bf=442.86)
.model qx2 PNP(Is=827.3675E-18 Bf=505.47)
.ends NJM2123_MER
***************************************************************
.SUBCKT COMPR 1 2 3
*	      + - S
EB1 4 0 VALUE = {limit(V(1,2)*1E5, 2.5,0)}
RD 4 3 1k
CD 3 0 100p
.ENDS COMPR
***************************************************************
